US03975310
2,6,6-Trimethyl-1-[1-hydroxy-3-butenyl]-2-cyclohexene
Allyl chloride (5 ml.) was added under nitrogen to a suspension of magnesium (28.8 g.) in 300 ml. of dry ether. According to the usual procedure of a Grignard reaction, allyl chloride (85 g.) and α-cyclocitral (152 g.) in 100 ml. of dry ether were added at such a rate as to maintain the solvent at reflux. At this temperature, the mixture was left during 3 h. and poured then into an NH4Cl aqueous solution.

reactant | Allyl chloride | 5 ml | C(C=C)Cl | C3H5Cl
reactant | magnesium | 28.8 g | [Mg] | Mg
reactant | allyl chloride | 85 g | C(C=C)Cl | C3H5Cl
reactant | α-cyclocitral | 152 g | CC1=CCCC(C1C=O)(C)C | C10H16O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
product | 2,6,6-Trimethyl-1-[1-hydroxy-3-butenyl]-2-cyclohexene | CC=1C(C(CCC1)(C)C)C(CC=C)O | C13H22O
